US06015825
By the method of Preparation 20(v), 2-(2,4-difluorophenyl)-2-[1-{4-(1,2,4-triazol-1-yl)phenyl}ethenyl]oxirane (570 mg, 1.75 mmol) was treated with sodium 1,2,4-triazole in DMF (10 ml) at 70° C. for 8 hours, to give 2-(2,4-difluorophenyl)-1-(1,2,4-triazol-1-yl)-3-[4-(1,2,4-triazol-1-yl)phenyl]-3-buten-2-ol (620 mg, 89%), as a solid, which was characterised by 1H-N.M.R. spectroscopy.

reactant | 2-(2,4-difluorophenyl)-2-[1-{4-(1,2,4-triazol-1-yl)phenyl}ethenyl]oxirane | 1.75 mmol, 570 mg | FC1=C(C=CC(=C1)F)C1(OC1)C(=C)C1=CC=C(C=C1)N1N=CN=C1 | C18H13F2N3O
reactant | sodium 1,2,4-triazole | N1N=CN=C1.[Na]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(2,4-difluorophenyl)-1-(1,2,4-triazol-1-yl)-3-[4-(1,2,4-triazol-1-yl)phenyl]-3-buten-2-ol | 620 mg, 89% | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(=C)C1=CC=C(C=C1)N1N=CN=C1)O | C20H16F2N6O
